US06610694B1
Production of 3-tert-Butyl-6-[3-[4-(diphenylmethoxy)piperidino]propoxy][1,2,4]triazolo[4.3-b]pyridazine
991 mg of 4-(diphenylmethoxy)-1-piperidinepropanol was dissolved in 20 ml of tetrahydrofuran; 322 mg of sodium tert-butoxide was added, followed by stirring at an external temperature of 60° C. for 2 hours. After cooling, 642 mg of 3-tert-butyl-6-chloro[1,2,4]triazolo[4,3-b]pyridazine was added, followed by refluxing under heating for 2 hours. After cooling, saline was added; the reaction mixture was extracted with ethyl acetate and dried over magnesium sulfate. After concentration under reduced pressure, the residue was subjected to silica gel column chromatography and eluted with ethyl acetate-methanol-triethylamine (50:5:1). The desired fraction was collected and concentrated under reduced pressure; 1.26 g of the residue was dissolved in 3 ml of pyridine; 1.5 ml of acetic anhydride was added, followed by stirring at room temperature for 6 hours. After the reaction mixture was concentrated under reduced pressure, the residue was subjected to silica gel column chromatography and eluted with ethyl acetate-methanol-triethylamine (50:5:1). The desired fraction was collected and concentrated under reduced pressure; the residue crystallized from ethyl acetate-diethyl ether (1:1), washed with diethyl ether, and dried, to yield 500 mg of the title compound.

reactant | 4-(diphenylmethoxy)-1-piperidinepropanol | 991 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCO)C1=CC=CC=C1 | C21H27NO2
reactant | sodium tert-butoxide | 322 mg | CC(C)([O-])C.[Na+]
reactant | 3-tert-butyl-6-chloro[1,2,4]triazolo[4,3-b]pyridazine | 642 mg | C(C)(C)(C)C1=NN=C2N1N=C(C=C2)Cl | C9H11ClN4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-tert-Butyl-6-[3-[4-(diphenylmethoxy)piperidino]propoxy][1,2,4]triazolo[4.3-b]pyridazine | 500 mg | C(C)(C)(C)C1=NN=C2N1N=C(C=C2)OCCCN2CCC(CC2)OC(C2=CC=CC=C2)C2=CC=CC=C2 | C30H37N5O2
